US07915424B2
N-Methoxy-N-methyl-5-phenylethynylnicotinamide
Add 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (3.86 g, 20.2 mmol) and diisopropylethylamine (7.0 mL, 40.3 mmol) to a suspension of 5-phenylethynylnicotinic acid (3.0 g, 13.4 mmol) and N,O-dimethylhydroxylamine hydrochloride (1.97 g, 20.2 mmol) in tetrahydrofuran (100 mL) and stir at room temperature overnight. Concentrate the reaction mixture, dissolve the residue in ethyl acetate and wash sequentially with an aqueous solution of phosphate buffer (pH=7) and a saturated aqueous solution of sodium chloride. Dry the organic layer over magnesium sulfate, filter and concentrate. Purify the residue by silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes, to give the title compound as a pale yellow solid (2.4 g, 67%).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 20.2 mmol, 3.86 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 40.3 mmol, 7.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-phenylethynylnicotinic acid | 13.4 mmol, 3.0 g | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=O)O)C1 | C14H9NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 20.2 mmol, 1.97 g | Cl.CNOC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-Methoxy-N-methyl-5-phenylethynylnicotinamide | 2.4 g, 67% | CON(C(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O)C | C16H14N2O2
